US06103766
Preparation of 2-[4-(4-trifluoromethoxybenzenesulfonamido)phenyl]ethyl-1-propylamine (8)
Using procedure 4, 4-trifluoromethoxybenzenesulfonyl chloride was added to 2-(4-aminophenyl)ethyl-1-(tert-butoxycarbonyl)propylamine to give the title compound as a solid, m.p. 151-154° C.

reactant | 4-trifluoromethoxybenzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
reactant | 2-(4-aminophenyl)ethyl-1-(tert-butoxycarbonyl)propylamine | NC1=CC=C(C=C1)CCNC(CC)C(=O)OC(C)(C)C | C16H26N2O2
product | 2-[4-(4-trifluoromethoxybenzenesulfonamido)phenyl]ethyl-1-propylamine | FC(OC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)CCNCCC)(F)F | C18H21F3N2O3S
